US05189054
Preparation of 3-[(Phenacyl)benzylamino]-2-carboxy-4,6-dichloroindole
Dissolve 3-[(phenacyl)benzylamino]-2-carbethoxy-4,6-dichloroindole (0.5 g, 1.07 mmol) in tetrahydrofuran (10 mL) and water (10 mL). Add lithium hydroxide monohydrate (0.16 g, 3.74 mmol) and stir for 24 hours. Heat at reflux for 6 hours and pour into 1N hydrochloric acid (100 mL). Extract into ethyl acetate, dry (MgSO4) and evaporate the solvent in vacuo. Recrystallize (ethyl acetate/hexane) to give the title compound; mp 266°-7° C.

reactant | 3-[(phenacyl)benzylamino]-2-carbethoxy-4,6-dichloroindole | 1.07 mmol, 0.5 g | C(C(=O)C1=CC=CC=C1)N(C1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCC)CC1=CC=CC=C1 | C26H22Cl2N2O3
reactant | lithium hydroxide monohydrate | 3.74 mmol, 0.16 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N, 100 mL | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 3-[(Phenacyl)benzylamino]-2-carboxy-4,6-dichloroindole | C(C(=O)C1=CC=CC=C1)N(C1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)O)CC1=CC=CC=C1 | C24H18Cl2N2O3
